US07189851B2
A. Ethyl 3-oxo-4-(3-thienyl)butanoate
A stirred solution of 711 mg (5.0 mmol) of 3-thienylacetic acid, 720 mg (5.0 mmol) of Meldrum's acid, and 610 mg (5.0 mmol) of 4-dimethylaminopyridine in 10 mL of DCM was treated with a solution of 1.03 g (5.0 mmol) of DCC in 10 mL of DCM. The resulting solution was stirred at room temperature for 16 h, during which time a white precipitate appeared in the reaction mixture. The reaction mixture was filtered through a pad of Celite to remove the precipitated dicyclohexylurea and the filtrate was washed successively with 1 N HCl (1×15 mL), H2O (1×15 mL), brine (1×15 mL). The filtrate was dried (MgSO4) and solvents were removed in vacuo. The resulting crude oil was dissolved in 8 mL of absolute ethanol and heated to 80° C. for 4 h. The reaction mixture was cooled to room temperature and ethanol was removed in vacuo. Purification of the resulting oil by silica gel flash column chromatography eluting with hexanes/EtOAc 2:1 afforded 1.02 g (97%) of the title compound as a yellow oil: 1H NMR (CDCl3, 400 MHz) δ 7.27 (m, 1H), 7.06 (s, 1H), 6.92 (m, 1H), 4.09 (q, 2H, J=6.8), 3.83 (s, 2H), 3.41 (s, 2H), 1.22 (t, 3H, J=6.8).

reactant | 3-thienylacetic acid | 5.0 mmol, 711 mg | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | Meldrum's acid | 5.0 mmol, 720 mg | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | DCC | 5.0 mmol, 1.03 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-dimethylaminopyridine | 5.0 mmol, 610 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-oxo-4-(3-thienyl)butanoate | 1.02 g, 97% | O=C(CC(=O)OCC)CC1=CSC=C1 | C10H12O3S
